US05338740
B. 6-Benzyloxy-naphthalen-1 -ylamine
A solution of N-(6-benzyloxy-naphthalen-1-yl)-acetamide (5.0 grams, 17 mmol) and potassium hydroxide (2.88 grams, 51 mmol) in EtOH (35 mL)/H2O (25 mL) was heated at 93° C. for 17 hours. After cooling to room temperature, the reaction mixture was concentrated in vacuo. The residue was diluted with saturated aqueous NaCl (25 mL) and extracted with EtOAc (5×100 mL). The combined organic extracts were dried over MgSO4 and concentrated in vacuo. The crude residue was chromatographed on SiO2 -gel using 30% ethyl acetate/hexanes. 1H NMR (250 MHz, CDCl3): d 7.78 (d, 1 H), 7.50 (s, 1 H), 7.38 (m, 3 H), 7.20 (m, 4 H), 6.67 (d, 1 H), 5.18 (s, 2 H).

reactant | N-(6-benzyloxy-naphthalen-1-yl)-acetamide | 17 mmol, 5.0 grams | C(C1=CC=CC=C1)OC=1C=C2C=CC=C(C2=CC1)NC(C)=O | C19H17NO2
reactant | potassium hydroxide | 51 mmol, 2.88 grams | [OH-].[K+]
reactant | H2O | 25 mL | O | H2O
solvent | EtOH | 35 mL | CCO | C2H6O
product | 6-Benzyloxy-naphthalen-1 -ylamine | C(C1=CC=CC=C1)OC=1C=C2C=CC=C(C2=CC1)N | C17H15NO
